US07645789B2
To a solution of N-[2-(3,3-dimethyl-but-1-ynyl)-6-fluoro-4-nitro-phenyl]-butyramide (3.2 g, 10 mmol) in DMF (20 mL) was added t-BuOK (2.3 g, 21 mmol) at room temperature. The mixture was heated at 120° C. for 2 g before being cooled down to room temperature. Water (50 mL) was added to the reaction mixture and the resulting mixture was extracted with CH2Cl2 (30 mL×3). The combined organic extracts were dried over anhydrous Na2SO4 and evaporated under vacuum to give 2-tert-butyl-7-fluoro-5-nitro-1H-indole (2.0 g, 81%), which was used in the next step without further purification. 1H NMR (300 MHz, CDCl3) δ 9.95 (brs, 1H), 8.30 (d, J=2.1 Hz, 1H), 7.74 (dd, J=1.8, 11.1 Hz, 1H), 6.43 (dd, J=2.4, 3.3 Hz, 1H), 1.43 (s, 9H).

reactant | N-[2-(3,3-dimethyl-but-1-ynyl)-6-fluoro-4-nitro-phenyl]-butyramide | 10 mmol, 3.2 g | CC(C#CC1=C(C(=CC(=C1)[N+](=O)[O-])F)NC(CCC)=O)(C)C | C16H19FN2O3
reactant | t-BuOK | 21 mmol, 2.3 g | CC(C)(C)[O-].[K+]
reactant | Water | 50 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-tert-butyl-7-fluoro-5-nitro-1H-indole | 2.0 g, 81% | C(C)(C)(C)C=1NC2=C(C=C(C=C2C1)[N+](=O)[O-])F | C12H13FN2O2
